US07960569B2
In a 250 mL oven-dried flask capped with a rubber septum and placed under a nitrogen atmosphere was charged ethyl 2-methyl-2-(4-nitrophenyl)propanoate (5.0 g, 21 mmol), anhydrous tetrahydrofuran (42 mL) and the flask was cooled to 0° C. To this was added via an addition funnel diisobutylaluminum hydride solution (63 mL, 1M in tetrahydrofuran) and the flask was allowed to warm to ambient temperature and stirred for 16 h. The reaction was quenched with Rochelle's salt, stirred for 30 min and filtered over Celite®. The solution was extracted three times with ethyl acetate and the combined organics were washed once each with Rochelle's salt, water, and brine. The organics were dried over sodium sulfate, filtered and concentrated in vacuo to give 2-methyl-2-(4-nitrophenyl)propan-1-ol (4.1 g, 99%).

reactant | ethyl 2-methyl-2-(4-nitrophenyl)propanoate | 21 mmol, 5.0 g | CC(C(=O)OCC)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO4
reactant | diisobutylaluminum hydride | 1M, 63 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
product | 2-methyl-2-(4-nitrophenyl)propan-1-ol | 4.1 g, 99% | CC(CO)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO3
